US08217028B2
Ethyl 3-(7-{5-[3,4-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate (100 mg) (D66), DABCO (13 mg) and N,N-dimethylformamide (4 mL) was added to dimethyl carbonate (10 mL) successively. The reaction vessel was sealed and heated in Biotage Initiator using initial normal to 150° C. for 2 h. After cooling the reaction, the solvent was removed in vacuo. The residue was dissolved in tetrahydrofuran (5 mL) and methanol (5 mL), and then NaOH (27 mg) in water (5 mL) was added. The mixture was stir at 50° C. for 8 h. The organic solvent was evaporated off and the mixture was acidified with HCl (1 M) solution to pH around 1. Extracted with EtOAc (60 mL), the organic layer was separated and the organic solvent was evaporated off. The residue was purified by Mass Directed Auto Prep to afford 3-(7-{5-[3,4-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1-methyl-1H-indol-3-yl)propanoic acid (E42) (50 mg). δH (DMSO-d6, 400 MHz): 1.35-1.39 (6H, m), 2.61 (2H, t), 2.97 (2H, t), 3.63 (3H, s), 4.12-4.19 (4H, m), 7.15-7.22 (3H, m), 7.43 (1H, dd), 7.65 (1H, d), 7.78 (1H, dd), 7.79 (1H, dd), 12.06 (1H, br s). MS (ES): C24H25N3O5 requires 435; found 436.2 (M+H+).

reactant | Ethyl 3-(7-{5-[3,4-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate | 100 mg | C(C)OC=1C=C(C=CC1OCC)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)OCC | C25H27N3O5
reactant | DABCO | 13 mg | C1CN2CCN1CC2 | C6H12N2
reactant | dimethyl carbonate | 10 mL | C(OC)(OC)=O | C3H6O3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(7-{5-[3,4-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1-methyl-1H-indol-3-yl)propanoic acid | 50 mg | C(C)OC=1C=C(C=CC1OCC)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)CCC(=O)O | C24H25N3O5
